US05559230
To a solution of 1-[4-(4-methoxycarbonylbenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.5 g) in methanol (20 ml) is added 5% aqueous sodium hydroxide solution (10 ml) and the mixture is stirred at room temperature overnight. Methanol is distilled off under reduced pressure and the resulting residue is acidified with diluted aqueous hydrochloric acid solution. The precipitated crystal is collected by filtration to give 1-[4-(4-carboxybenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.4 g) as white powder, m.p. >300° C.

reactant | 1-[4-(4-methoxycarbonylbenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.5 g | COC(=O)C1=CC=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=C1 | C25H22N2O4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-[4-(4-carboxybenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.4 g | C(=O)(O)C1=CC=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=C1 | C24H20N2O4
